US04481142
9-Chloro-7-(2-fluorophenyl)-5H-pyrimido[5,4-d][2]benzazepin-5-ol
A solution of 3.7 g (9.7 mmole) of 9-chloro-7-(2-fluorophenyl)-5H-pyrimido[5,4-d][2]benzazepin-5-ol acetate in a mixture of 25 ml of tetrahydrofuran, 50 ml of methanol and 2 ml of 3N sodium hydroxide was stirred at room temperature for 0.5 hr. The reaction mixture was poured into ice water and extracted with methylene chloride. The organic layer was separated, dried over anhydrous sodium sulfate and concentrated in vacuo to dryness. The residue crystallized from a mixture of methylene chloride and ether to give a crude product melting at 186°-188° C. Recrystallization from a mixture of ether and methylene chloride gave the product as cream colored prisms, mp 196°-198° C.

reactant | 9-chloro-7-(2-fluorophenyl)-5H-pyrimido[5,4-d][2]benzazepin-5-ol acetate | 9.7 mmole, 3.7 g | C(C)(=O)OC1N=C(C2=C(C3=C1C=NC=N3)C=CC(=C2)Cl)C2=C(C=CC=C2)F | C20H13ClFN3O2
reactant | methanol | 50 ml | CO | CH4O
reactant | sodium hydroxide | 3N, 2 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 9-Chloro-7-(2-fluorophenyl)-5H-pyrimido[5,4-d][2]benzazepin-5-ol | ClC1=CC2=C(C3=C(C(N=C2C2=C(C=CC=C2)F)O)C=NC=N3)C=C1 | C18H11ClFN3O
